US05395993
A solution of 335.4 g (1.28 mol) of triphenylphosphine and 240.5g (1.0 mol) of 8-bromooctanol (86.9% pure) in 400 ml of 2-butanol is refluxed for 8 h and then allowed to cool, and 140 g (2.6 mol) of sodium methylate are added a little at a time, keeping the temperature below 40° C. by cooling. The mixture is then stirred for one hour and 92.3 g (1.28 mol) of n-butyraldehyde are added dropwise at <20° C. After the mixture has been stirred at room temperature for 2 h, 350 ml of water are added. Distillation of the organic phase yields 117.4 g of 8-dodecenol (64% yield). E:Z=16:84.

reactant | triphenylphosphine | 1.28 mol, 335.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 8-bromooctanol | BrCCCCCCCCO | C8H17BrO
reactant | sodium methylate | 2.6 mol, 140 g | C[O-].[Na+]
reactant | n-butyraldehyde | 1.28 mol, 92.3 g | C(CCC)=O | C4H8O
solvent | 2-butanol | 400 ml | CC(CC)O | C4H10O
solvent | water | 350 ml | O | H2O
product | 8-dodecenol | 117.4 g, 64% yield | C(CCCCCCC=CCCC)O | C12H24O
